US06660736B2
d) 2-[5-(4-Fluoro-benzyloxy)-1,3-dioxo-1,3-dihydro-isoindol-2-yl]-acetamide
A mixture of 4-(4-fluoro-benzyloxy)-phthalic acid (185 mg, 0.64 mmol) and carbonyldiimidazole (109 mg, 0.67 mmol) in 1-methyl-2-pyrrolidinone (4 mL) was stirred at room temperature for 10 min and then heated at 50° C. for 15 min. To this mixture was added glycinamide hydrochloride (78 mg, 0.71 mmol) and pyridine (50 mg, 0.63 mmol) and the resulting mixture heated at 175 or 200° C. with microwave radiation (Smith reactor) for 10 min. After cooling to room temperature, the mixture was diluted with water and the resulting precipitate was filtered off and purified by chromatography (SiO2, CH2Cl2:2N NH3/MeOH 9:1) to afford the title compound (146 mg, 69%) as a white solid. MS: m/e=329.3. (M+H+).

reactant | 4-(4-fluoro-benzyloxy)-phthalic acid | 0.64 mmol, 185 mg | FC1=CC=C(COC=2C=C(C(C(=O)O)=CC2)C(=O)O)C=C1 | C15H11FO5
reactant | carbonyldiimidazole | 0.67 mmol, 109 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | glycinamide hydrochloride | 0.71 mmol, 78 mg | Cl.NCC(=O)N
reactant | pyridine | 0.63 mmol, 50 mg | N1=CC=CC=C1 | C5H5N
solvent | 1-methyl-2-pyrrolidinone | 4 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 2-[5-(4-Fluoro-benzyloxy)-1,3-dioxo-1,3-dihydro-isoindol-2-yl]-acetamide | 146 mg, 69% | FC1=CC=C(COC=2C=C3C(N(C(C3=CC2)=O)CC(=O)N)=O)C=C1 | C17H13FN2O4
